US06777395B2
3′-Deoxy-5′-O-(4-methoxytrityl)-3′-(iodomethyl)-2′-O-(2-methoxyethyl)-5-methyluridine
A mixture of 3′-deoxy-3′-(iodomethyl)-2′-O-(2-methoxyethyl)-5-methyluridine (472 mg, 1.1 mmol), diisopropylethylamine (0.79 mL, 0.586 g, 4.5 mmol), and p-anisyl chlorodiphenyl methane (4′-methoxytrityl chloride, MMT-C1) (1.32 g, 4.27 mmol) in 6 mL of ethyl acetate and 4 mL of THF was stirred at rt for 48 h. The reaction mixture was diluted with ethyl acetate and washed with water, followed by brine. The organic phase was dried (Na2SO4) and concentrated. The crude product was purified by flash chromatography on a silica gel column. Gradient elution with 3:1, 2:1, 1:1, and then 1:3 hexanes-EtOAc provided 690 mg of the title compound as a white foam.

reactant | 3′-deoxy-3′-(iodomethyl)-2′-O-(2-methoxyethyl)-5-methyluridine | 1.1 mmol, 472 mg | IC[C@H]1[C@H]([C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(=C1)C)OCCOC | C14H21IN2O6
reactant | diisopropylethylamine | 4.5 mmol, 0.79 mL, 0.586 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-anisyl chlorodiphenyl methane | 4.27 mmol, 1.32 g | C(C1=CC=C(C=C1)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C21H19ClO
reactant | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3′-Deoxy-5′-O-(4-methoxytrityl)-3′-(iodomethyl)-2′-O-(2-methoxyethyl)-5-methyluridine | 690 mg | COC1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=O)NC(=O)C(=C2)C)OCCOC)CI)C=C1 | C34H37IN2O7
